US08039460B2
Step B: tert-Butyl [(6S,9R)-6-(2,6-difluorophenyl)-3-(2,2,2-trifluoroethyl)-6,7,8,9-tetrahydro-5H-imidazo[1,2-a]azepin-9-yl]carbamate
Pyridinium dichromate (2.24 g, 5.94 mmol) was added to a solution of tert-butyl {(2Z,3R,6S)-6-(2,6-difluorophenyl)-2-[(4,4,4-trifluoro-2-hydroxybutyl)imino]azepan-3-yl}carbamate (461 mg, 0.99 mmol) in acetonitrile (20 mL). After 18 h, the mixture was filtered and concentrated. Saturated aqueous sodium bicarbonate was added and the mixture was extracted with dichloromethane (3×). The combined organic extracts were dried over magnesium sulfate, filtered, and concentrated. Purification by silica gel chromatography (80% hexanes/ethyl acetate→50% hexanes/ethyl acetate) gave the title compound. MS 446.2 (M+1).

reactant | Pyridinium dichromate | 5.94 mmol, 2.24 g | [Cr](=O)(=O)([O-])O[Cr](=O)(=O)[O-].[NH+]1=CC=CC=C1.[NH+]1=CC=CC=C1
reactant | tert-butyl {(2Z,3R,6S)-6-(2,6-difluorophenyl)-2-[(4,4,4-trifluoro-2-hydroxybutyl)imino]azepan-3-yl}carbamate | 0.99 mmol, 461 mg | FC1=C(C(=CC=C1)F)[C@@H]1CC[C@H](/C(/NC1)=N/CC(CC(F)(F)F)O)NC(OC(C)(C)C)=O | C21H28F5N3O3
solvent | acetonitrile | 20 mL | C(C)#N | C2H3N
product | tert-Butyl [(6S,9R)-6-(2,6-difluorophenyl)-3-(2,2,2-trifluoroethyl)-6,7,8,9-tetrahydro-5H-imidazo[1,2-a]azepin-9-yl]carbamate | FC1=C(C(=CC=C1)F)[C@@H]1CC[C@H](C=2N(C1)C(=CN2)CC(F)(F)F)NC(OC(C)(C)C)=O | C21H24F5N3O2
